2139-01-01 06:26:00 Physician Resident Progress Note
Chief Complaint: VT storm
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2138-12-31**] 10:48 PM
   50 J
 EKG - At [**2138-12-31**] 10:56 PM
   On arrival pt went into sustained VT, possibly symptomatic.  She was
   defibrillated with 50J and converted into regular rhythm with possible
   ectopic focus.  Pt's mental status was below baseline, after
   administration of fentanyl.  She ws continued on amiodarone and heparin
   drip.  started on lidocaine drip.  She was also started on low dose IV
   and po metoprolol.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Lidocaine - 2 mg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Fentanyl - [**2138-12-31**] 10:49 PM
   Metoprolol - [**2138-12-31**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-1**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 55 (53 - 177) bpm
   BP: 93/46(58) {89/35(46) - 113/61(73)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                     44 mL
                                                                  1,081 mL
   PO:
             30 mL
   TF:
   IVF:
                                                                     44 mL
                                                                  1,051 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     44 mL
                                                                    781 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular:  Nl S1 and S2,  [**3-7**] holosystolic murmur at base.  [**4-4**]
   crescendo/decrescendo at RUSB
   Peripheral Vascular : DP/PT  palpable bilaterally
   Respiratory / Chest:  basilar crackles, otherwise clear bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive
   Labs / Radiology
   187 K/uL
   11.4 g/dL
   106 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   109 mEq/L
   139 mEq/L
   34.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2138-12-31**]  10:59 PM
                             [**2139-1-1**]  04:06 AM
   WBC
   11.9
   11.6
   Hct
   36.5
   34.1
   Plt
   215
   187
   Cr
   0.6
   0.7
   TropT
   0.27
   0.23
   Glucose
   101
   106
   Other labs: PT / PTT / INR:12.2/40.5/1.0, CK / CKMB /
   Troponin-T:630/11/0.23, Differential-Neuts:67.6 %, Lymph:26.0 %,
   Mono:4.5 %, Eos:1.5 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: no new imaging
   ECG: bradycardia at rate in 50s, one to one A:V conduction.  inverted p
   waves in multiple leads suggesting ectopic atrial focus.  Hyperacute T
   waves in anterolateral leads unchanged from prior.  Mildy prolonged QRS
   ~110.  No ST changes, or T wave inversions.
   Assessment and Plan
 TACHYCARDIA, OTHER
 KNOWLEDGE DEFICIT
   58 year old woman with remote history of 2 vessel CAD, total occlusion
   of LCx and RCA, presenting with VT / Electrical storm.
   # VT STORM: No clear etiology for persistant ventricular tachycardia /
   fibrillation. Although cardiac enzymes are slightly elevated, this is
   in the setting of repeated defibrillation and in the absence of ECG
   changes. Given known total occlusion of LCx however, ischemic insult to
   scar tissue or new ischemic injury could cause posterior infarct.
   Differential diagnosis for precipitants of VT storm would include
   electrolyte imbalance, new onset heart failure or exacerbation,
   ischemia and drug toxicity / effect. Patient at risk of VT/VF given
   past MI and resulting scar in posterior and infeerior walls.
   -- Continue amiodarone load, pt received 150mg bolus, would continue IV
   load at 1mg/min (60mg/hr) overnight, then reduce to 0.5mg/min (30mg/hr)
   (maximum daily dose 2 gm)
   -- IV Lidocaine with 100mg bolused, continue 2mg drip, monitor mental
   status
   -- Cont low dose Metoprolol to supress ectopy
   -- Trend cardiac enzymes
   -- NPO overnight, will likely need diagnostic cath to rule out active
   ischemia before EP study
   -- EP consult in AM for potential EP study
   -- Continue heparin drip due to stunned myocardium from repeated
   cardioversions
   # CORONARIES:  As above, will need to evaluate for active CAD
   -- Beta blocker
   -- Aspirin
   -- Statin
   # SYSTOLIC HEART FAILURE, ACUTE VS CHRONIC:  Mildly depressed EF,
   unclear if this is acute change although regional wall motion
   abnormality is consistent with that from [**2127**]. No symptoms of CHF
   - Consider starting ACE-I / long acting beta blocker after procedures
   - Recent echo in [**Month (only) 11**] of this year, pending potential findings would
   consider repeating.
   # VALVULAR DISEASE: Mild AS, Mod MR, pt at risk of flash pulmonary
   edema with VT episodes.
   -- Monitor volume status closely
   #PPX
   - pain - Tylenol, fentanyl for defibrillation
   - bowel reg
   - Heparin drip
   - requires ICU consent
   #FEN/GI - Cardiac diet
   #Code status - Full
   #Access - PIVs
   #Communication - patient and husband
   #Dispo - when stable, s/p ICD placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-12-31**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-02 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: VT Storm
   24 Hour Events:
 ARTERIAL LINE - START [**2139-1-1**] 07:25 PM
 SHEATH - START [**2139-1-1**] 07:26 PM
 SHEATH - START [**2139-1-1**] 07:27 PM
 SHEATH - STOP [**2139-1-1**] 09:08 PM
 SHEATH - STOP [**2139-1-1**] 09:11 PM
 ARTERIAL LINE - STOP [**2139-1-1**] 09:12 PM
   -cath with chronic occlusion of RCA and Circ (accessed right groin)\
   -EP performed a substrate ablation.  They were not able to induce
   sustained VT some non-sustained VT that appeared to originate from
   inferior septum and base.  Plan for ICD placement first thing tomorrow.
   -During the ablation the patient became hypoxic requiring NRB for short
   time, now 96% 2L.  Got lasix 40mg IV x1.  Developed angina which
   responded to 1 SL NTG.
   -EP recs - d/c lido. cont aspirin, increase metoprolol to 25mg [**Hospital1 **]
   -Per [**Doctor Last Name **] continue amiodarone 0.5 overnight.  No QTC prolongation on
   EKG. Start Amio 200mg PO daily in AM.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-2**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 52 (52 - 81) bpm
   BP: 116/51(67) {86/43(54) - 130/69(6,253)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  3,481 mL
                                                                    249 mL
   PO:
                                                                    210 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  3,271 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  4,255 mL
                                                                    600 mL
   Urine:
                                                                  4,255 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -774 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular:  Nl S1 and S2,  [**3-7**] holosystolic murmur at base.
   Peripheral Vascular : DP/PT  palpable bilaterally
   Respiratory / Chest:  basilar crackles, otherwise clear bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Psych: Attentive, pleasant cooperative
   Labs / Radiology
   178 K/uL
   11.2 g/dL
   99 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   9 mg/dL
   108 mEq/L
   141 mEq/L
   31.6 %
   9.8 K/uL
        [image002.jpg]
                             [**2138-12-31**]  10:59 PM
                             [**2139-1-1**]  04:06 AM
                             [**2139-1-1**]  08:44 PM
                             [**2139-1-2**]  02:37 AM
   WBC
   11.9
   11.6
   9.8
   Hct
   36.5
   34.1
   31.6
   Plt
   [**Telephone/Fax (3) 9650**]
   Cr
   0.6
   0.7
   0.6
   TropT
   0.27
   0.23
   0.71
   0.88
   Glucose
   101
   106
   99
   Other labs: PT / PTT / INR:12.3/30.3/1.0, CK / CKMB /
   Troponin-T:420/13/0.88, Differential-Neuts:67.6 %, Lymph:26.0 %,
   Mono:4.5 %, Eos:1.5 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   58 year old woman with remote history of 2 vessel CAD, total occlusion
   of LCx and RCA, presenting with VT / Electrical storm.
   # VT STORM vs SVT (AVNRT w/ abberancy): No clear etiology for
   persistent ventricular tachycardia / fibrillation. Although cardiac
   enzymes are slightly elevated, this is in the setting of repeated
   defibrillation and in the absence of ECG changes. Given known total
   occlusion of LCx however, ischemic insult to scar tissue or new
   ischemic injury could cause posterior infarct.  Also concerned that she
   may have p waves present on tele while in wide complex tachycardia.
   She has also responded to low voltage defibrillation. Cath showed
   chronic occlusion of RCA and Circ. EP substrate ablation
 to return
   for ICD placement this AM. No further episodes of VT overnight.
   -- switch Amiodarone gtt to 200mg PO daily this AM
   -- d/c lidocaine gtt, heparin gtt
   -- increase Metoprolol to 25mg PO BID
   -- Trend cardiac enzymes
 CK peaked at 630
   -- NPO overnight, ICD placement today
   -- EP recs appreciated
   # CORONARIES:  Cath showed occlusion of RCA and Circ, as above.
   -- increase Metoprolol to 25mg PO BID
   -- Aspirin 325mg PO daily
   -- Atorvastatin 80mg PO daily
   #Elevated cardiac enzymes
 CK highly elevated compared to CKMB and
   troponins suggesting muscle damage from debrillation is contributing.
   CK peaked at 630, now downtrending.
   - trend cardiac [**Last Name (un) **]
   # SYSTOLIC HEART FAILURE, ACUTE VS CHRONIC:  Mildly depressed EF,
   unclear if this is acute change although regional wall motion
   abnormality is consistent with that from [**2127**]. No symptoms of CHF.
   - Consider starting ACE-I / long acting beta blocker after procedures
   - Recent echo in [**Month (only) 11**] of this year, pending potential findings would
   consider repeating.
   # VALVULAR DISEASE: Mild AS, Mod MR, pt at risk of flash pulmonary
   edema with VT episodes. Pt currently euvolemic.
   -- Monitor volume status closely
   #PPX
   - pain - Tylenol, fentanyl for defibrillation
   - bowel reg
   - Heparin SC
   #FEN/GI - Cardiac diet, NPO for procedure
   #Code status - Full
   #Access - PIVs
   #Communication - patient and husband
   #Dispo
 CCU for now, ICD placement today, possible transfer to floor
   after procedure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-12-31**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Patient did well yesterday in cath demonstrating non-obstructed LAD and
   no change in anatomy of the CTO LCx and RCA. Then to EP for substrate
   ablation as they were unable to induce VT. Lidocaine weaned off and the
   patient remains on Amio 200 mg Qd with metoprolol 25 mg TID. Patient
   back to EP lab for ICD placement later today. Will plan on discharge
   tomorrow if stable from the arrhythmia point of view.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2139-1-2**] 05:54 PM ------